US06992087B2
Preparation of 2-ethyl-2,3-dihydro-1H-inden-1-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting (+/−)-2-ethyl-2,3-dihydro-1H-inden-1-one and making non-critical variations provided the title compound as a colorless syrup. MS (ESI+) for m/z 176.1 (M+H)+.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | (+/−)-2-ethyl-2,3-dihydro-1H-inden-1-one | C(C)C1C(C2=CC=CC=C2C1)=O | C11H12O
product | 2-ethyl-2,3-dihydro-1H-inden-1-one oxime | C(C)C1C(C2=CC=CC=C2C1)=NO | C11H13NO
